US08106070B2
Palladium tetrakis(triphenylphosphine) (16 mg, 0.01 mmol) was added to a degassed, ambient temperature solution of 2-[2-(4-bromophenyl)-1-hydroxyethyl]-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide (65 mg, 0.14 mmol) and 5-fluoro-2-(trimethylstannyl)pyridine (solution from the previous step containing 1.7 mmol) in 1,2-dimethoxyethane (10 mL). After stirring at 95° C. for 8 h, the reaction mixture was diluted with ethyl acetate and washed with water, dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-80% ethyl acetate/hexane afforded 4-(2,2-dimethylbutyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxyethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | 2-[2-(4-bromophenyl)-1-hydroxyethyl]-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.14 mmol, 65 mg | BrC1=CC=C(C=C1)CC(O)C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C | C19H28BrN3O3S
reactant | 5-fluoro-2-(trimethylstannyl)pyridine | FC=1C=CC(=NC1)[Sn](C)(C)C
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium tetrakis(triphenylphosphine) | 0.01 mmol, 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 4-(2,2-dimethylbutyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxyethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)O)(CC)C | C24H31FN4O3S
